US05856578
In a stirred autoclave, 0.1 g of a catalyst prepared according to Example H1 is added to a solution of 10 g of allyl 2-(2-chloro-5-nitrobenzoyloxy)-2-methylpropionate in 80 ml of tetrahydrofuran and 20 ml of n-propanol, and the mixture is hydrogenated for 15 hours at a temperature of 140° C. and at a hydrogen pressure of 20 bar. After cooling the mixture to room temperature and flushing the stirred autoclave with nitrogen, the catalyst is filtered off. 126.8 g (incl. rinsing solvent) are obtained of a solution having a content of 6.58% of allyl 2-(2-chloro-5-aminobenzoyloxy)-2-methylpropionate (yield: 92.7% of theory).

reactant | allyl 2-(2-chloro-5-nitrobenzoyloxy)-2-methylpropionate | 10 g | ClC1=C(C(=O)OC(C(=O)OCC=C)(C)C)C=C(C=C1)[N+](=O)[O-] | C14H14ClNO6
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | n-propanol | 20 ml | C(CC)O | C3H8O
product | allyl 2-(2-chloro-5-aminobenzoyloxy)-2-methylpropionate | yield: 92.7% | ClC1=C(C(=O)OC(C(=O)OCC=C)(C)C)C=C(C=C1)N | C14H16ClNO4
